US05231102
e) 2-Carboxy-5,7-dichloro-4-oxo-1,2,3,4-tetrahydroquinoline
1-Acetyl-2-carboxy-5,7-dichloro-4-oxo-1,2,3,4-tetrahydroquinoline (21.17 g) was suspended in 3N hydrochloric acid (500 ml) and heated at reflux overnight. After cooling, the aqueous solution was extracted with ethyl acetate (3×300 ml) and the combined organic layers were washed with brine (1×300 ml), dried (MgSO4), filtered and evaporated in vacuo to give the title compound as a yellow solid (17.45 g, m.p. 218°-219° C.); δ (360 MHz, DMSO) 2.73 (1H, dd, J=15.7 and 6.8 Hz, CHACHBHC), 2.92 (1H, dd, J=15.7 and 6.2 Hz, CHACHBHC), 4.36 (1H, m, CHACHBHC), 6.67 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.96 (1H, d, J=2.0 Hz, 6-H or 8-H), 7.62 (1H, br, s, NH); m/e (FAB) 260 (M+1); Found: C, 46.10; H, 2.85; N, 5.26. C10H7Cl2NO3 requires C, 46.18; H, 2.71; H, 5.39%.

reactant | 1-Acetyl-2-carboxy-5,7-dichloro-4-oxo-1,2,3,4-tetrahydroquinoline | 21.17 g | C(C)(=O)N1C(CC(C2=C(C=C(C=C12)Cl)Cl)=O)C(=O)O | C12H9Cl2NO4
solvent | hydrochloric acid | 3N, 500 ml | Cl | ClH
product | 2-Carboxy-5,7-dichloro-4-oxo-1,2,3,4-tetrahydroquinoline | 17.45 g | C(=O)(O)C1NC2=CC(=CC(=C2C(C1)=O)Cl)Cl | C10H7Cl2NO3
